US07217724B2
4- (2-Bromobutanoyl)morpholine
To a solution of 2-bromobutanoic acid (0.3 mL, 2.81 mmol) in N,N-dimethylformamide (14 mL) are added morpholine (0.3 mL, 3.44 mmol), 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride (650 mg, 3.39 mmol) and 7-hydroxybenzotriazole (456 mg, 3.38 mmol), and the mixture is stirred at room temperature for 4.5 hours. After the reaction is completed, water is added to the mixture, and the mixture is extracted with ethyl acetate. The organic layer is washed with 1N-hydrochloric acid, a saturated aqueous sodium hydrogen carbonate solution, and a saturated brine, and dried over anhydrous magnesium sulfate. The solvent is evaporated, and the obtained residue is purified by silica gel column chromatography (n-hexane/ethyl acetate=3/1) to give the title compound (323 mg, yield: 49%).

reactant | 2-bromobutanoic acid | 2.81 mmol, 0.3 mL | BrC(C(=O)O)CC | C4H7BrO2
reactant | morpholine | 3.44 mmol, 0.3 mL | N1CCOCC1 | C4H9NO
reactant | 1-ethyl-3-(3-dimethylaminopropyl)-carbodiimide hydrochloride | 3.39 mmol, 650 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | 7-hydroxybenzotriazole | 3.38 mmol, 456 mg | OC1=CC=CC2=C1NN=N2 | C6H5N3O
solvent | N,N-dimethylformamide | 14 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | 4- (2-Bromobutanoyl)morpholine | 323 mg, yield: 49% | BrC(C(=O)N1CCOCC1)CC | C8H14BrNO2
